US05412117
To a mixture of 0.8 g of N,2-dimethyl-6-cyano-2-ethyl-3-hydroxy-2H-1-benzopyran-4-carbothioamide and 20 ml of methanol was added 0.24 g of sodium borohydride (NaBH4) while stirring under ice-cooling, followed by stirring at room temperature for 2 hours. The reaction mixture was distilled under reduced pressure, and water was added to the residue. The residue was extracted with diethyl ether, and the organic layer was washed with water and dried. The solvent was removed by distillation to obtain 0.43 g of N,2-dimethyl-6-cyano-3,4-dihydro-2-ethyl-3-hydroxy-2H-1-benzopyran-4-carbothioamide. The resulting product were added 0.1 g of p-toluenesulfonic acid monohydrate and 30 ml of toluene, followed by heating at reflux for 3 hours. The solvent was removed by distillation, and the residue was purified by silica gel column chromatography (developing solution: CH2Cl2) to obtain 0.2 g of N,2-dimethyl-6-cyano-2-ethyl-2H-1-benzopyran-4-carbothioamide represented by formula shown below.

reactant | N,2-dimethyl-6-cyano-2-ethyl-3-hydroxy-2H-1-benzopyran-4-carbothioamide | 0.8 g | CNC(=S)C1=C(C(OC2=C1C=C(C=C2)C#N)(CC)C)O | C15H16N2O2S
reactant | sodium borohydride | 0.24 g | [BH4-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | N,2-dimethyl-6-cyano-3,4-dihydro-2-ethyl-3-hydroxy-2H-1-benzopyran-4-carbothioamide | 0.43 g | CNC(=S)C1C(C(OC2=C1C=C(C=C2)C#N)(CC)C)O | C15H18N2O2S
